US04617307
A solution of 54 mg of 5-p-cyanophenylimidazo[1,5-a]pyridine hydrochloride in 5.0 ml methanol is hydrogenated at room temperature and atmospheric pressure for 30 minutes with 0.1 g of 10% palladium on charcoal. The catalyst is filtered and 0.21 ml of 1N sodium hydroxide is added. The filtrate is evaporated, taken up in 10 ml of methylene chloride and filtered through Celite®. Evaporation yields an oil which is chromatographed on silica gel with ethyl acetate to yield 5-p-cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine, m.p. 117°-118°.

reactant | 5-p-cyanophenylimidazo[1,5-a]pyridine hydrochloride | 54 mg | Cl.C(#N)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2
solvent | methanol | 5.0 ml | CO | CH4O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 5-p-cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
